US06220925B1
In a solvent mixture of 250 ml of acetic acid and 40 ml of ethyl acetate was dispersed 190 g of 1-benzylhydantoin and the mixture was refluxed under heating with stirring. To the mixture was added dropwise 164 g of bromine over a period of one hour, and the mixture was refluxed under heating for 30 minutes. The solvent was distilled off under a reduced pressure and the residue was allowed to stand for cooling. To the residue were added dropwise an aqueous sodium bicarbonate solution prepared by dissolving 53 g of sodium bicarbonate in 400 ml of water and then 200 ml of water. The reaction vessel was cooled with water and the crystals thus-deposited were collected by filtration, washed with water and dried to obtain 182 g of 5-hydroxy-1-benzylhydantoin as colorless crystals.

reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | 1-benzylhydantoin | 190 g | C(C1=CC=CC=C1)N1C(=O)NC(=O)C1 | C10H10N2O2
reactant | bromine | 164 g | BrBr | Br2
reactant | sodium bicarbonate | 53 g | C([O-])(O)=O.[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-1-benzylhydantoin | 182 g | OC1C(NC(N1CC1=CC=CC=C1)=O)=O | C10H10N2O3
